US07981888B2
1-(2-bromoethoxy)-2,3-dichlorobenzene
This example was prepared by substituting 1-naphthol with 2,3-dichlorophenol and substituting 3-bromopropanol with 2-bromoethanol in EXAMPLE 31A.

reactant | 2,3-dichlorophenol | ClC1=C(C=CC=C1Cl)O | C6H4Cl2O
reactant | 2-bromoethanol | BrCCO | C2H5BrO
product | 1-(2-bromoethoxy)-2,3-dichlorobenzene | BrCCOC1=C(C(=CC=C1)Cl)Cl | C8H7BrCl2O
